US04865618
Preparation of 3,5-diamino-2,4-bis(γ-hydroxypropoxy)-chlorobenzene dihydrochloride
250 g of powdered iron which had been reduced with hydrogen were added to 700 ml of water containing 10 ml of acetic acid which had been previously heated to 95° C., and 0.34 mole (119 g) of 3,5-dinitro-2,4-bis(γ-hydroxypropoxy)chlorobenzene was added gradually with stirring. Upon completion of the additions, the reaction mixture was maintained for 10 additional minutes at 95° C. After cooling, 1 liter of ethyl acetate was added. The reaction mixture was filtered off in order to remove the iron slurries. The ethyl acetate phase, which was separated from the aqueous phase, was, after washing with water, and drying over sodium sulphate, evaporated off to dryness. The solids content obtained in this manner was taken up with a hydrochloric acid solution in absolute ethanol. The expected product precipitated. After thorough draining followed by drying, analysis of the product obtained gave the following results:

reactant | hydrogen | [H][H] | H2
reactant | water | 700 ml | O | H2O
reactant | 3,5-dinitro-2,4-bis(γ-hydroxypropoxy)chlorobenzene | 0.34 mole, 119 g | [N+](=O)([O-])C=1C(=C(C=C(C1OCCCO)[N+](=O)[O-])Cl)OCCCO | C12H15ClN2O8
reactant | hydrochloric acid | Cl | ClH
solvent | ethanol | C(C)O | C2H6O
catalyst | iron | 250 g | [Fe] | Fe
solvent | ethyl acetate | 1 liter | C(C)(=O)OCC | C4H8O2
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 3,5-diamino-2,4-bis(γ-hydroxypropoxy)-chlorobenzene dihydrochloride | Cl.Cl.NC=1C(=C(C=C(C1OCCCO)N)Cl)OCCCO | InChI=1S/C12H19ClN2O4.2ClH/c13-8-7-9(14)12(19-6-2-4-17)10(15)11(8)18-5-1-3-16;;/h7,16-17H,1-6,14-15H2;2*1H
